US07932394B2
Methyl 6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole-5-carboxylate
Methyl 6-[4-(ethylsulfonyl)phenoxy]-2-(2-pyridinyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5-carboxylate was reacted with trifluoroacetic acid to obtain the entitled compound.

reactant | Methyl 6-[4-(ethylsulfonyl)phenoxy]-2-(2-pyridinyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5-carboxylate | C(C)S(=O)(=O)C1=CC=C(OC=2C(=CC3=C(N(C(=N3)C3=NC=CC=C3)COCC[Si](C)(C)C)C2)C(=O)OC)C=C1 | C28H33N3O6SSi
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole-5-carboxylate | C(C)S(=O)(=O)C1=CC=C(OC=2C(=CC3=C(NC(=N3)C3=NC=CC=C3)C2)C(=O)OC)C=C1 | C22H19N3O5S
